US04355031
1-(4-Pyridinyl)piperazine
A mixture of piperazine (67.0 g, 0.78 mol) and 4-chloropyridine (26.1 g, 0.23 mol) in xylene (520 ml) was heated at reflux for 20hr. The reaction mixture was cooled and filtered. The filtrate was evaporated to dryness to give 5.96 g of the title compound as a solid; m.p. 132°-136° C.; NMR(CDCl3) δ1.8(s,1H), 2.9(m,4H), 3.2(m,4H), 6.6(m,2H), 8.2(m,2H).

reactant | piperazine | 0.78 mol, 67.0 g | N1CCNCC1 | C4H10N2
reactant | 4-chloropyridine | 0.23 mol, 26.1 g | ClC1=CC=NC=C1 | C5H4ClN
solvent | xylene | 520 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-Pyridinyl)piperazine | 5.96 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
